US04558043
A solution of 2.37 g (10.0 mmole) of 5-chloro-6-(piperidin-1-yl)-2,3-dihydrobenzofuran and 2.27 g (10.0 mmole) of 2,3-dichloro-5,6-dicyano-1,4-benzoquinone in 200 ml of dioxane is boiled under reflux for 12 hours. The reaction mixture is cooled and filtered and the filtrate is concentrated in a vacuum rotary evaporator. The residue is chromatographed over silica gel using methylene chloride as eluant (Rf =0.63). In that manner, 5-chloro-6-(piperidin-1-yl)-benzofuran is obtained in the form of an oil which distills at 96°-97°/1.5 torr.

reactant | 5-chloro-6-(piperidin-1-yl)-2,3-dihydrobenzofuran | 10.0 mmole, 2.37 g | ClC=1C(=CC2=C(CCO2)C1)N1CCCCC1 | C13H16ClNO
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 10.0 mmole, 2.27 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 5-chloro-6-(piperidin-1-yl)-benzofuran | ClC=1C(=CC2=C(C=CO2)C1)N1CCCCC1 | C13H14ClNO
